US05883102
1-((4-Cyanophenyl)thioxomethyl)-4-piperidone ethylene ketal
A solution of 1-(4-cyanobenzoyl)-4-piperidone ethylene ketal (1.00 g, 3.68 mmol) and Lawesson's reagent (1.2 g, 2.9 mmol) in dioxane (20 ml) was heated to reflux for 1 h, cooled and evaporated. The residue was pre-absorbed on silica gel and purified by flash chromatography eluting with 25% ethyl acetate/hexane, increasing the gradient to 40% ethyl acetate/hexane, to afford the product as a yellow solid (353 mg), MS (+EI) 288 (M+), 1H NMR(CDCl3) 7.67 (2H, d, J 7 Hz), 7.36 (2H, d, J 7 Hz), 4.5-4.45 (2H, m), 4.06-3.98 (4H, m), 3.58 (2H, dd, J 6, 4.2 Hz), 1.94 (2H, t, J 6 Hz), 1.69 (2H, t, J 6 Hz).

reactant | 1-(4-cyanobenzoyl)-4-piperidone ethylene ketal | 3.68 mmol, 1.00 g | C1COC2(CCN(CC2)C(C2=CC=C(C=C2)C#N)=O)O1 | C15H16N2O3
reactant | Lawesson's reagent | 2.9 mmol, 1.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-((4-Cyanophenyl)thioxomethyl)-4-piperidone ethylene ketal | 353 mg | C1COC2(CCN(CC2)C(=S)C2=CC=C(C=C2)C#N)O1 | C15H16N2O2S
